US07718621B2
a) (2-Prop-2-ynyloxy-ethyl)-carbamic acid tert-butyl ester
To a solution of (2-hydroxy-ethyl)-carbamic acid tert-butyl ester (1.56 g) in DCM (25 mL) benzyltrimethylammonium chloride (0.18 g) was added. To this solution aqueous 50% NaOH (30 g) and propargyl bromide (1.05 mL of 80% solution in toluene) were added and the mixture was vigorously stirred at room temperature for 3 h. Phases were diluted and separated; the organic phase was washed with water (2×15 mL), dried and evaporated under reduced pressure. The residue was purified by chromatography (silica gel, 0-5% methanol in DCM) to give the title compound as a pale-orange oil (1.53 g); ESMS m/z 222.4 [M+Na]+.

reactant | (2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 1.56 g | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
reactant | NaOH | 30 g | [OH-].[Na+]
reactant | propargyl bromide | 1.05 mL | C(C#C)Br | C3H3Br
solvent | DCM | 25 mL, 0.18 g | C(Cl)Cl | CH2Cl2
product | (2-Prop-2-ynyloxy-ethyl)-carbamic acid tert-butyl ester | 1.53 g | C(C)(C)(C)OC(NCCOCC#C)=O | C10H17NO3
